US07030145B2
Part G. {3-[4-(2-Methoxybenzyloxy)-benzenesulfonyl]-6-methylpyridin-2-yl}-(4-methoxy-2-methylphenyl)-amine
2-Bromo-3-[4-(2-methoxybenzyloxy)-benzenesulfonyl]-6-methylpyridine from part F (75 mg, 0.167 mmol), 2-methyl-4-methoxyaniline (26 μL, 0.200 mmol), Pd(dba)3 (3 mg, 0.0033 mmol), dppp (3 mg, 0.0067 mmol), and NaOt-Bu (22 mg, 0.234 mmol) were suspended in toluene in a tightly capped conical vial. The reaction mixture was heated at 70° C. for 4.5 h. The mixture was cooled to rt, and diluted with ether. The organic layer was washed with brine (2×), dried over MgSO4, filtered, and concentrated. Purified by preparative TLC (1000 μM silica gel plate, 15% ethyl acetate in hexanes) to furnish the desired product (13 mg, 15% yield) as a pale yellow solid: mp 70–72° C.; 1H NMR (300 MHz, CDCl3) δ 8.31 (s, 1H), 7.93 (d, J=8.0 Hz, 1H), 7.77 (d, J=9.2 Hz, 2H), 7.52 (d, J=8.4 Hz, 1H), 7.30–7.22 (m, 2H), 6.96 (d, J=8.8 Hz, 2H), 6.90 (d, J=7.6 Hz, 1H), 6.84 (d, J=8.0 Hz, 1H), 6.68 (d, J=9.1 Hz, 2H), 6.53 (d, J=8.0 Hz, 1H), 5.23 (s, 2H), 3.78 (s, 3H), 3.73 (s, 3H), 2.27 (s, 3H), 2.10 (s, 3H); HRMS (ESI) m/z 505.1807 [(M+H)+, calcd for C28H29N2O5S, 505.1797].

reactant | 2-Bromo-3-[4-(2-methoxybenzyloxy)-benzenesulfonyl]-6-methylpyridine | BrC1=NC(=CC=C1S(=O)(=O)C1=CC=C(C=C1)OCC1=C(C=CC=C1)OC)C | C20H18BrNO4S
reactant | 2-methyl-4-methoxyaniline | 0.200 mmol, 26 μL | CC1=C(N)C=CC(=C1)OC | C8H11NO
reactant | dppp | 0.0067 mmol, 3 mg | C=1C=CC(=CC1)P(CCCP(C=2C=CC=CC2)C=3C=CC=CC3)C=4C=CC=CC4 | C27H26P2
reactant | NaOt-Bu | 0.234 mmol, 22 mg | CC(C)(C)[O-].[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | ether | CCOCC | C4H10O
product | {3-[4-(2-Methoxybenzyloxy)-benzenesulfonyl]-6-methylpyridin-2-yl}-(4-methoxy-2-methylphenyl)-amine | 13 mg, 15% yield | COC1=C(COC2=CC=C(C=C2)S(=O)(=O)C=2C(=NC(=CC2)C)NC2=C(C=C(C=C2)OC)C)C=CC=C1 | C28H28N2O5S
